US05780482
A mixture of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (2.0 g), 5-amino-2-ethoxypyridine (1.25 g) and IMS (20 ml) was boiled under reflux for 2 hours. The mixture was cooled and filtered to give 3-ethoxy-5-(2-ethoxy-5-pyridylamino)-2-methyl-1,8-naphthyridine hydrochloride dihydrate, m.p. 184°-187° C. Active (2/3) at 30 mg/kg.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 2.0 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 5-amino-2-ethoxypyridine | 1.25 g | NC=1C=CC(=NC1)OCC | C7H10N2O
product | 3-ethoxy-5-(2-ethoxy-5-pyridylamino)-2-methyl-1,8-naphthyridine hydrochloride dihydrate | O.O.Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC=1C=CC(=NC1)OCC)C | InChI=1S/C18H20N4O2.ClH.2H2O/c1-4-23-16-10-14-15(8-9-19-18(14)21-12(16)3)22-13-6-7-17(20-11-13)24-5-2;;;/h6-11H,4-5H2,1-3H3,(H,19,21,22);1H;2*1H2
